US06897231B2
B. 2-Amino-5-(phenylmethoxy)phenyl phenyl ketone
A solution of phenyl-N-[2-(phenylcarbonyl)-4-(phenylmethoxy)phenyl]carboxamide (3.24 g, 8.0 mmol) in methanol (20 mL) and 10 N sodium hydroxide (NaOH) (6 mL) was heated to reflux temperature when tetrahydrofuran (THF) (15 mL) was added. The solution was then heated to reflux overnight when the methanol and THF was removed under vacuo. The solution was then added to water (100 mL) and extracted with ethyl acetate (3×40 mL). The combined organic layers were dried (Na2SO4) and concentrated under vacuo to an oil to isolate the title compound (2.60 g, >100% yield, analytical).

reactant | phenyl-N-[2-(phenylcarbonyl)-4-(phenylmethoxy)phenyl]carboxamide | 8.0 mmol, 3.24 g | C1(=CC=CC=C1)C(=O)NC1=C(C=C(C=C1)OCC1=CC=CC=C1)C(=O)C1=CC=CC=C1 | C27H21NO3
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
solvent | sodium hydroxide | 10 N, 6 mL | [OH-].[Na+]
product | 2-Amino-5-(phenylmethoxy)phenyl phenyl ketone | 2.60 g, >100% yield | C1(=CC=CC=C1)C(=O)C1=C(C=CC(=C1)OCC1=CC=CC=C1)N | C20H17NO2
